US08211882B2
3,5-dichloro-N-(2-chloro-4-nitrophenyl)-2 hydroxybenzamide (Compound 2).
This material was prepared according to the method of Example 1 using 3,5-dichlorosalicylic acid and 2-chloro-4-nitroaniline, with reagents and solvents employed in similar molar ratios. 1HNMR (500 MHz, DMSO-d6): δ7.85 (m, 1H, H4), 7.98 (m, 1H, H5), 8.29 (m, 1H, H5′), 8.04 (m, 1H, H6), 8.44 (m, 1H, H3′), 8.55 (m, 1H, H6′).

reactant | 3,5-dichlorosalicylic acid | ClC1=C(C(C(=O)O)=CC(=C1)Cl)O | C7H4Cl2O3
reactant | 2-chloro-4-nitroaniline | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
product | 3,5-dichloro-N-(2-chloro-4-nitrophenyl)-2 hydroxybenzamide | ClC=1C(=C(C(=O)NC2=C(C=C(C=C2)[N+](=O)[O-])Cl)C=C(C1)Cl)O | C13H7Cl3N2O4
